US04391982
2,2,-Dicarbethoxy-1-(3',4',5'-trimethoxy phenyl)-5,6-methylenedioxyindan (VII-b; where R1 and R2 =O--CH2 --O--, Z1 and Z2 =COOC2H5, R7 =CH3, R8, R9 =OCH3)
6-bromo-3,4-methylenedioxybenzyl chloride (364 mg, 1.45 mmol) is reacted as in Example 2 with t-butyllithium (0.98 ml, 1.5 mmol, 1.55 M in pentane) and diethyl (3,4,5-trimethoxyphenyl)methylenemalonate (490 mg, 1.45 mmol) to provide the title compound (551 mg, 81% yield).

reactant | 6-bromo-3,4-methylenedioxybenzyl chloride | 1.45 mmol, 364 mg | BrC1=CC2=C(C=C1CCl)OCO2 | C8H6BrClO2
reactant | t-butyllithium | 1.5 mmol, 1.55 M, 0.98 ml | C(C)(C)(C)[Li]
reactant | diethyl (3,4,5-trimethoxyphenyl)methylenemalonate | 1.45 mmol, 490 mg | COC=1C=C(C=C(C1OC)OC)C=C(C(=O)OCC)C(=O)OCC | C17H22O7
product | 2,2,-Dicarbethoxy-1-(3',4',5'-trimethoxy phenyl)-5,6-methylenedioxyindan | 551 mg, 81% yield | C(=O)(OCC)C1(C(C2=CC3=C(C=C2C1)OCO3)C3=CC(=C(C(=C3)OC)OC)OC)C(=O)OCC | C25H28O9
